US07098337B2
c) (4R,9aR)-6-Cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 1.2 g (37.6 mmol) (4R,9aR)-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 30 ml N,N-dimethylformamide was added 0.18 g (41.4 mmol) sodium hydride. After 30 min 0.72 ml (1.01 g, 75.2 mmol) (bromomethyl)cyclopropane was added and the reaction was stirred for 3 h. The reaction mixture was poured into 10% aqueous sodium bicarbonate solution and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel (0.032–0.063 mm) with a gradient of ethyl acetate:n-hexane (1:1 to 100:0) as eluant to afford the compound as a light yellow oil (67.1%).

reactant | (4R,9aR)-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 37.6 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CO | C17H25N3O3
reactant | sodium hydride | 41.4 mmol, 0.18 g | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 75.2 mmol, 0.72 ml, 1.01 g | BrCC1CC1 | C4H7Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R,9aR)-6-Cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 67.1% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)COCC1CC1 | C21H31N3O3
